US04894458
5-Bromo-2,4-difluoro-3-methylaniline
To a suspension of iron powder (26.6 g, 100 mesh) in water (60 ml), with vigorous stirring at 50° C., was slowly added concentrated hydrochloric acid (4 ml). After hot ethanol (120 ml) was mixed, 3-bromo-2,6-difluoro-5-nitrotoluene (40 g) was added dropwise to the suspension at 75° to 78° C. during 30 minutes. The reacting mixture was refluxed for 1 hour, insoluble materials were filtered off through Celite pad, and then the materials were washed with hot ethanol. To the filtrate and washings were added ice water (400 ml) and the resulting precipitate was recrystallized from hexane to give the title compound (18.66 g) as pale brown needles, mp 68°-68.5° C.

reactant | hydrochloric acid | 4 ml | Cl | ClH
reactant | ethanol | 120 ml | C(C)O | C2H6O
reactant | 3-bromo-2,6-difluoro-5-nitrotoluene | 40 g | BrC=1C(=C(C(=C(C1)[N+](=O)[O-])F)C)F | C7H4BrF2NO2
solvent | water | 60 ml | O | H2O
catalyst | iron | 26.6 g | [Fe] | Fe
product | 5-Bromo-2,4-difluoro-3-methylaniline | 18.66 g | BrC=1C(=C(C(=C(N)C1)F)C)F | C7H6BrF2N
